US05731322
(±)-trans-2-Dimethylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
0.5 g (1.25 mmol) of (±)trans-2-dimethylaminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g] isoquinoline were treated with 0.725 ml (7.5 mmol) of boron tribromide as described in example 2. The etude product was dissolved in MeOH and the solution brought to acidic pH with HCl/Et2O. The solvent was evaporated in vacuo and the solid crystallized from EtOH, yielding 0.15 g of the title compound. M.p.=305° C. dec.

reactant | (±)trans-2-dimethylaminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g] isoquinoline | 1.25 mmol, 0.5 g | CN(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)OC)N1)C)C | C24H33N3O2
reactant | boron tribromide | 7.5 mmol, 0.725 ml | B(Br)(Br)Br | BBr3
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | CO | CH4O
product | (±)-trans-2-Dimethylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 0.15 g | Cl.CN(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)O)N1)C)C | InChI=1S/C23H31N3O2.ClH/c1-5-26-10-9-23(16-7-6-8-18(27)11-16)13-20-19(12-17(23)14-26)15(2)21(24-20)22(28)25(3)4;/h6-8,11,17,24,27H,5,9-10,12-14H2,1-4H3;1H/t17-,23+;/m1./s1
